US05037834
2-Amino-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine
2-Amino-5,6,7,8-tetrahydro-6-triphenylmethylpyrido-[4,3-d]pyrimidine (80 mg, 0.20 mmol) was mixed with water (0.5 ml) and acetic acid (0.5 ml) and heated on a steam bath for 5 minutes. Addition of acetone provided a homogeneous mixture. Removal of solvents gave an oil, which was purified by flash column chromatography (eluant: 89:10:1 chloroform:methanol:concentrated ammonium hydroxide) to provide the title product (24.3 mg, 0.16 mmol, 80% yield).

reactant | 2-Amino-5,6,7,8-tetrahydro-6-triphenylmethylpyrido-[4,3-d]pyrimidine | 0.20 mmol, 80 mg | NC=1N=CC2=C(N1)CCN(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C26H24N4
reactant | water | 0.5 ml | O | H2O
reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
solvent | acetone | CC(=O)C | C3H6O
product | 2-Amino-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine | 0.16 mmol, 24.3 mg, 80% yield | NC=1N=CC2=C(N1)CCNC2 | C7H10N4
